US03975375
B. 1-Chlorocarbonyl-2-oxo-3-benzenesulphonyl-imidazolidine ##SPC70##
A mixture of 80 parts by weight of 1-benzenesulphonyl-2-oxo-imidazolidine, 69 parts by weight of phosgene, 31.6 parts by weight of pyridine and 350 parts by volume of dichloromethane, brought together at 0°C, was stirred overnight at room temperature and subsequently evaporated to dryness. Thereafter the material was suspended in 500 parts by volume of ice water and filtered off, the residue was taken up in 500 parts by volume of dichloromethane, the solution was dried over MgSO4, filtered and again evaporated to dryness, and the residue was recrystallized from acetone/petroleum ether.

reactant | 1-benzenesulphonyl-2-oxo-imidazolidine | C1(=CC=CC=C1)S(=O)(=O)N1C(NCC1)=O | C9H10N2O3S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Chlorocarbonyl-2-oxo-3-benzenesulphonyl-imidazolidine | ClC(=O)N1C(N(CC1)S(=O)(=O)C1=CC=CC=C1)=O | C10H9ClN2O4S
